US07615562B2
(2R,4R)-4-(4-Benzo[b]thiophen-2-yl-pyrimidin-2-ylamino)-piperidine-2-carboxylic acid methyl ester
The title compound was prepared from 4-benzo[b]thiophen-2-yl-2-chloro-pyrimidine and (2R,4R)-4-amino-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester according to Step C of Method A. Yield 45 mg (45%).

reactant | 4-benzo[b]thiophen-2-yl-2-chloro-pyrimidine | S1C2=C(C=C1C1=NC(=NC=C1)Cl)C=CC=C2 | C12H7ClN2S
reactant | (2R,4R)-4-amino-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | COC(=O)[C@@H]1N(CC[C@H](C1)N)C(=O)OC(C)(C)C | C12H22N2O4
product | (2R,4R)-4-(4-Benzo[b]thiophen-2-yl-pyrimidin-2-ylamino)-piperidine-2-carboxylic acid methyl ester | COC(=O)[C@@H]1NCC[C@H](C1)NC1=NC=CC(=N1)C1=CC2=C(S1)C=CC=C2 | C19H20N4O2S
